US07973040B2
Step 5: (1aR,5S,8S,10R22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylic acid
A solution (0.1 M) of methyl (1aR,5S,8S,10R,22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylate in a 1:1 mixture of H2O/THF was treated with LiOH.H2O (3 eq). The resulting mixture was stirred at 20° C. for 18 h, acidified with aqueous HCl (0.2 M) and diluted with EtOAc. The organic phase was separated, washed with aqueous HCl (0.2 M) and brine then dried. Removal of the volatiles afforded the title compound (98%) as a solid. MS (ES+) m/z 555 (M+H)+

reactant | methyl (1aR,5S,8S,10R,22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylate | 0.1 M | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCCCCC=3C(=NC=4C=C(C=CC4N3)OC)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)OC)C2)=O | C30H40N4O7
reactant | H2O THF | O.C1CCOC1
reactant | LiOH.H2O | 3 eq | O[Li].O
reactant | HCl | 0.2 M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1aR,5S,8S,10R22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylic acid | 98% | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCCCCC=3C(=NC=4C=C(C=CC4N3)OC)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)O)C2)=O | C29H38N4O7
